US05087775
Preparation of 2,2,3,3-tetrafluorocyclobutyl isopropyl ether / step b (variant β)
To 40 g of 10% strength palladium-carbon under nitrogen a solution of 274 g (1.26 mol) of 2-chloro-3,3,4,4-tetrafluorocyclobutenyl isopropyl ether, 252 g (2.50 mol) of triethylamine, and 1200 ml of ether dried over calcium chloride is added, and the mixture is hydrogenated in a 3 l VA autoclave at 100° C. until the pressure is constant (about 5 hours). The solid is filtered off with suction and washed well with ether, and the filtrate is washed with dilute hydrochloric acid. After drying, the organic phase is distilled.

reactant | 2-chloro-3,3,4,4-tetrafluorocyclobutenyl isopropyl ether | 1.26 mol, 274 g | C(C)(C)OC1=C(C(C1(F)F)(F)F)Cl | C7H7ClF4O
reactant | triethylamine | 2.50 mol, 252 g | C(C)N(CC)CC | C6H15N
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
catalyst | palladium-carbon | [C].[Pd]
solvent | ether | 1200 ml | CCOCC | C4H10O
product | 2,2,3,3-tetrafluorocyclobutyl isopropyl ether | C(C)(C)OC1C(C(C1)(F)F)(F)F | C7H10F4O
